US07129274B1
Carsalam (30.00 g, 0.1840 mol), iodomethane (10.23 ml, 0.1643 mol), sodium carbonate (19.51 g, 0.1840 mol) and dimethylformamide (150 ml) were placed in a 500 ml round bottom flask. The reaction mixture was heated overnight at 80° C. After cooling to room temperature, the reaction mixture was filtered and a white solid collected. This was washed with water and the remaining solid placed into a 250 ml round bottom flask. Water was added to the filtrate from the initial filtration and more, white solid precipitated. This material was combined with the solid already in the 250 ml flask and 2N aqueous sodium hydroxide (150 ml) was added. The mixture was heated for one hour before heating was discontinued and the reaction mixture was allowed to cool overnight. Overnight, a white solid precipitated and was isolated by filtration and allowed to dry in vacuo. 21.52 g of N-methylsalicylamide was isolated.

reactant | Carsalam | 0.1840 mol, 30.00 g | C=1C=CC2=C(C1)C(=O)NC(=O)O2 | C8H5NO3
reactant | iodomethane | 0.1643 mol, 10.23 ml | IC | CH3I
reactant | sodium carbonate | 0.1840 mol, 19.51 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | N-methylsalicylamide | 21.52 g | CNC(C=1C(O)=CC=CC1)=O | C8H9NO2
